US06566535B1
Phenoxyethanol (440 g, 3.1874 mol) was dissolved in 880 ml of a mixed solution of acetic acid/water =7/3. Sodium acetate (340 g, 4.1436 mol) was added and cooled to 15° C. A solution resulting from dissolving bromine (514.5 g, 3.22 mol) in 1760 ml of a mixed solution of acetic acid/water=7/3 was dropped while keeping at 15-20° C. and then was stirred at 10-20° C. for 30 minutes. Yellow color remained a little. Six milliliter of a 10 W/W% aqueous sodium sulfite solutions was dropped. The mixture became colorless. Dropping 2200 ml of water caused clouding. Crystallization was conducted by addition of seed crystals and stirring at room temperature for 30 minutes. After adding 4400 ml of water, stirring was done at room temperature for 30 minutes and at 0-10° C. for 1.5 hours. The crystals were filtered and washed with 3 L of water. After overnight air-drying and vacuum drying (35-40° C.) for 16 hours, 631 g (Yield 91.3%) of p-bromophenoxyethanol was obtained as white crystals.

reactant | Phenoxyethanol | 3.1874 mol, 440 g | O(C1=CC=CC=C1)C(C)O | C8H10O2
reactant | Sodium acetate | 4.1436 mol, 340 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 3.22 mol, 514.5 g | BrBr | Br2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid water | C(C)(=O)O.O
solvent | water | 2200 ml | O | H2O
product | p-bromophenoxyethanol | 631 g, Yield 91.3% | BrC1=CC=C(OC(C)O)C=C1 | C8H9BrO2
